US05112867
2-[Bis((hydroxyphenyl)methyl]-N-(diphenylmethyl)benzylamine hydrochloride (Compound 87)
At first, 4.88 g of 2-[bis(methoxymethoxyphenyl)methyl-N-(diphenylmethyl)benzylamine was obtained in a similar manner as in Example 77, except that aminodiphenylmethane was used in place of cyclooctylamine. The compound was then dissolved in ethyl acetate saturated with hydrochloric acid. The mixture was stirred for 10 minutes, and then ether was added to the mixture. Precipitates were collected by filtration and then dried to afford 1.3 g of the desired compound of hydrochloride (Compound 87).

reactant | bis(methoxymethoxyphenyl)methyl-N-(diphenylmethyl)benzylamine | COCOC1=C(C=CC=C1)C(C1=C(C=CC=C1)OCOC)N(C(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C37H37NO4
reactant | aminodiphenylmethane | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Bis((hydroxyphenyl)methyl]-N-(diphenylmethyl)benzylamine hydrochloride | 1.3 g | Cl.OC1=C(C=CC=C1)CC(C1=CC=CC=C1)(NC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C=CC=C1)O | InChI=1S/C34H31NO2.ClH/c36-31-22-12-10-18-28(31)24-34(30-20-8-3-9-21-30,25-29-19-11-13-23-32(29)37)35-33(26-14-4-1-5-15-26)27-16-6-2-7-17-27;/h1-23,33,35-37H,24-25H2;1H
